US08242133B2
A mixture of 10 g of 2,4-dichloro-5-nitrobenzotrifluoride, 4.15 g of potassium acetate and 60 ml of DMF was stirred while heating at 60° C. for one hour and at 80° C. for three hours. To the reaction mixture, 4.15 g of potassium acetate was added. The reaction mixture was stirred while heating at 80° C. for further one hour. The reaction mixture was cooled to room temperature, and 1 M hydrochloric acid was added thereto, followed by extraction with ethyl acetate. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 7.55 g of 5-chloro-2-nitro-4-trifluoromethylphenol.

reactant | 2,4-dichloro-5-nitrobenzotrifluoride | 10 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])C(F)(F)F | C7H2Cl2F3NO2
reactant | potassium acetate | 4.15 g | C(C)(=O)[O-].[K+]
reactant | potassium acetate | 4.15 g | C(C)(=O)[O-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 5-chloro-2-nitro-4-trifluoromethylphenol | 7.55 g | ClC=1C(=CC(=C(C1)O)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO3
